US05534481
A solution containing 9.5 g (72 mmol) of 2-methyl-2H-indazole in 200 ml of ethyl ether, was cooled to -30° C., and 61.4 g (144 mmol) of n-butyl lithium (a 15% hexane solution) was dropwise added thereto. The mixture was stirred for one hour at the same temperature, and then an excess amount of sulfurous acid gas was blown thereinto for 3 hours at a temperature of not higher than -20° C. After completion of the reaction, the mixture was returned to room temperature, stirred for 12 hours and then diluted with ethyl ether. The product was subjected to filtration. The crystals were dried to obtain crude lithium 2-methyl-2H-indazole-3-sulfinate. This product was used for the subsequent reaction without purification. 48.8 g (430 mmol) of hydroxylamine-O-sulfonic acid was gradually added to a solution containing 17.2 g (430 mmol) of sodium hydroxide in water 300 ml) under cooling with ice (not higher than 10° C.). This solution was added all at once to a solution containing the crude lithium 2-methyl-2H-indazole-3-sulfinate previously prepared in water (100 ml), and then the mixture was stirred for 12 hours at room temperature. Formed crystals were collected by filtration to obtain 8.8 g (yield: 58%) of 2-methyl-2H-indazole-3-sulfonamide (slightly yellow granular crystals). Melting point: 181°-183° C.

reactant | hydroxylamine-O-sulfonic acid | 430 mmol, 48.8 g | NOS(=O)(=O)O | H3NO4S
reactant | sodium hydroxide | 430 mmol, 17.2 g | [OH-].[Na+]
reactant | lithium 2-methyl-2H-indazole-3-sulfinate | CN1N=C2C=CC=CC2=C1S(=O)[O-].[Li+]
solvent | water | 300 ml | O | H2O
solvent | water | 100 ml | O | H2O
product | 2-methyl-2H-indazole-3-sulfonamide | 8.8 g, yield: 58% | CN1N=C2C=CC=CC2=C1S(=O)(=O)N | C8H9N3O2S
